US04565878
To a solution of 2.15 grams diethyl acetone dicarboxylate, and 1.92 grams of chloroacetone in 20 ml of methylene chloride were added 11 ml of 40 percent by weight aqueous methylamine in one portion. The temperature rose from 25° C. to 35° C. over a period of 4 to 5 minutes. The mixture was stirred without heating for 45 minutes from methylamine addition. Then 11 ml of HCl were added. The resultant product was extracted three times with chloroform and the extracts evaporated to obtain ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate, as confirmed by gas chromatograph analysis (10% SE-52 Col. A, 100° at 10°/min.) with internal standard, in 66 percent yield and a 3 percent yield of methyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetamide and 6 percent yield of ethyl 5,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate for a total of 75 percent yield of substituted pyrroles.

reactant | diethyl acetone dicarboxylate | 2.15 grams | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | chloroacetone | 1.92 grams | ClCC(C)=O | C3H5ClO
reactant | methylamine | CN | CH5N
reactant | HCl | 11 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate | 66 percent yield | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
